US05264430
Benzhydryl 7α-chloro-3-methyl-3-cephem-4-carboxylate 1,1-dioxide (9.3 g, 0.0215 mol) was dissolved in methylene chloride (35 ml), dimethylamine hydrochloride (4.9 g, 0.0645 mol), formaldehyde solution (2.25 g, 0.075 mol) and t-butyl alcohol (300 ml) were added and the mixture was heated to reflux at 95° C. for 4 hours. After removing the solvent under reduced pressure the residue was redissolved in methylene chloride, washed successively with water, dried over sodium sulfate and concentrated. The product was purified over a silica column using hexane-ethyl acetate mixture as the eluant to yield benzhydryl 7α-chloro-2-methylene-3-methyl-3-cephem-4-carboxylate 1,1-dioxide (3.6 g, 40%) as a white foam. IR (Nujol) ν max 1723, 1800 cm-1.

reactant | Benzhydryl 7α-chloro-3-methyl-3-cephem-4-carboxylate 1,1-dioxide | 0.0215 mol, 9.3 g | Cl[C@@H]1[C@@H]2N(C(=C(CS2(=O)=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H18ClNO5S
reactant | dimethylamine hydrochloride | 0.0645 mol, 4.9 g | Cl.CNC
reactant | formaldehyde | 0.075 mol, 2.25 g | C=O | CH2O
reactant | t-butyl alcohol | 300 ml | C(C)(C)(C)O | C4H10O
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7α-chloro-2-methylene-3-methyl-3-cephem-4-carboxylate 1,1-dioxide | 3.6 g, 40% | Cl[C@@H]1[C@@H]2N(C(=C(C(S2(=O)=O)=C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H18ClNO5S
